US06180636B2
3.53 g (9.0 mmol) of 4-(3-chloroanilino)-6-(4-ethoxycarbonylphenyl)-7H-pyrrolo[2,3-d]pyrimidine are suspended in 150 ml of THF. At 54° C., a total of 0.845 g (21.6 mmol) of lithium aluminum hydride are introduced in the course of 5 h. For working up, 1 ml of water, 2 ml of 1N sodium hydroxide solution and 1 ml of water, followed by 10 g of sodium sulfate, are added successively. The solid is filtered off and the filtrate is concentrated. The residue obtained is washed with methanol and diethyl ether and then dried. 4-(3-Chloroanilino)-6-(4-hydroxymethlyphenyl)-7H-pyrrolo[2,3-d]pyrimidine is obtained in colorless crystals; m.p.>250° C.; FAB-MS (M+H)+=351.

reactant | 4-(3-chloroanilino)-6-(4-ethoxycarbonylphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 9.0 mmol, 3.53 g | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)C(=O)OCC)C=CC1 | C21H17ClN4O2
reactant | lithium aluminum hydride | 21.6 mmol, 0.845 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | sodium sulfate | 10 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 4-(3-Chloroanilino)-6-(4-hydroxymethlyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)CO)C=CC1 | C19H15ClN4O
